US04963590
3-(3-methoxy-4-hydroxy-5-trifluoromethylphenyl)-1-(3,4,5-trimethoxyphenyl)prop-2-en-1-one
The procedure described in Example 8 was repeated using 2.2 g of 3-methoxy-4-hydroxy-5-trifluoromethylbenzaldehyde and 2.1 g of 3',4',5'-trimethoxyacetophenone. Yield 2.6 g (61%), m.p. 190°-192° C.

reactant | 3-methoxy-4-hydroxy-5-trifluoromethylbenzaldehyde | 2.2 g | COC=1C=C(C=O)C=C(C1O)C(F)(F)F | C9H7F3O3
reactant | 3',4',5'-trimethoxyacetophenone | 2.1 g | COC=1C=C(C=C(C1OC)OC)C(C)=O | C11H14O4
product | 3-(3-methoxy-4-hydroxy-5-trifluoromethylphenyl)-1-(3,4,5-trimethoxyphenyl)prop-2-en-1-one | COC=1C=C(C=C(C1O)C(F)(F)F)C=CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C20H19F3O6
